US04101659
To a suspension of 9.61 g (0.025 mole) of methyl-N-(diphenylmethyl)-carbamimidothioate hydroiodide in 20 ml of t-BuOH is added 4.26 g (0.05 mole) of piperidine. The mixture is heated under reflux over night. The resulting crystals after cooling in ice, are filtered; mp 200°-213° C. One recrystallization from methanol-t-BuOH yields the pure product, N-(diphenylmethyl)-1-piperidinecarboximidamide monohydroiodide as a white crystalline solid; mp 207°-210° C.

reactant | methyl-N-(diphenylmethyl)-carbamimidothioate hydroiodide | 0.025 mole, 9.61 g | I.CSC(NC(C1=CC=CC=C1)C1=CC=CC=C1)=N
reactant | piperidine | 0.05 mole, 4.26 g | N1CCCCC1 | C5H11N
solvent | t-BuOH | 20 ml | CC(C)(C)O | C4H10O
product | N-(diphenylmethyl)-1-piperidinecarboximidamide monohydroiodide | I.C1(=CC=CC=C1)C(NC(=N)N1CCCCC1)C1=CC=CC=C1 | InChI=1S/C19H23N3.HI/c20-19(22-14-8-3-9-15-22)21-18(16-10-4-1-5-11-16)17-12-6-2-7-13-17;/h1-2,4-7,10-13,18H,3,8-9,14-15H2,(H2,20,21);1H
